*
*******************************************
*
*PMEG45U10EPD
*
*NXP Semiconductors
*
*45V, 10A extremly low VF MEGA Schottky barrier rectifiers
*
*
*
*
*
*VF   = 429mV @ IF = 10A
*IR   = 200µA @ VR = 45V
*
*
*
*
*
*
*
*
*
*Package pinning does not match Spice model pinning.
*Package: SOT1289
*
*Package Pin 1: Anode          D1 
*Package Pin 2: Cathode        D1  
*Package Pin 3: Cathode        D1  
*
*
*
*Simulator: SPICE3
*
*******************************************
*#
.SUBCKT PMEG45U10EPD 1 2
*
*The resistor R1 and the diode D2 do not reflect 
*physical devices but improve 
*only modeling in the reverse 
*mode of operation.
*       
R1 1 2 3.5E+005
D1 1 2 DIODE1
D2 1 2 DIODE2
*
.MODEL DIODE1 D
+ IS = 9.6E-007
+ N = 0.9
+ BV = 53.5
+ IBV = 0.002
+ RS = 0.0046
+ CJO = 2.088E-009
+ VJ = 0.34
+ M = 0.48
+ FC = 0
+ TT = 0
+ EG = 0.69
+ XTI = 2
.MODEL DIODE2 D
+ IS = 1E-013
+ N = 1
+ RS = 0.1
.ENDS
*
